US04568687
N-[3-(1H-Imidazol-1-yl)propyl]-2-phenoxyacetamide
A mixture of 2.28 g. of phenoxyacetic acid, 2.43 g. of 1,1'-carbonyldiimidazole and 50 ml. of tetrahydrofuran was stirred at room temperature for 2 hours, then 3.0 g. of 1H-imidazole-1-propanamine dihydrochloride was added. The reaction mixture was stirred for 18 hours, then heated at reflux temperature for 5 hours, 5 ml. of water was added, the mixture was heated for 30 minutes and then concentrated to remove the tetrahydrofuran. The residue was treated with methylene chloride and 50 ml. of 1N sodium hydroxide and the layers separated. The organic layer was washed with water, dried over magnesium sulfate and concentrated. The residue was washed onto a filter with ether, giving the desired product, m.p. 91°-93° C.

reactant | phenoxyacetic acid | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1H-imidazole-1-propanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCN
solvent | water | O | H2O
product | N-[3-(1H-Imidazol-1-yl)propyl]-2-phenoxyacetamide | N1(C=NC=C1)CCCNC(COC1=CC=CC=C1)=O | C14H17N3O2
